US05859007
A mixture of 3.004 g of 4,5-difluoro-N-phenyl-benzene-1,2-diamine (J. Gen. Chem. USSR (Engl. Transl.), 1964, 34), 1.910 g of potassium carbonate (13.82 mmol, 1.0 equiv), and 3.956 g of 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (13.82 mmol, 1.0 equiv) in 20 mL of dimethylformamide is stirred under nitrogen at ambient temperature for 16 h. An additional 3.00 g of 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide (10.5 mmol, 0.75 equiv) is added and the reaction is heated at 50° C. for 2 h. The mixture is cooled to ambient temperature and then partitioned between diethyl ether and 1:1 water/saturated aqueous brine. The layers were separated and the aqueous layer is back-extracted twice with diethyl ether. The ether layers were combined, washed with saturated aqueous brine, dried over anhydrous sodium sulfate and then evaporated in vacuo to a residue. The residue is purified on flash grade silica gel using 10-20% ethyl acetate in hexane. The appropriate fractions were combined, evaporated in vacuo and dried under vacuum to provide 5.62 g of 2-(4,5-Difluoro-2-phenylamino-phenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide as a solid: Low resolution MS (FAB)m/e 425 (M+); TLC Rf =0.43 (ethyl acetate/hexane 3:7).

reactant | 4,5-difluoro-N-phenyl-benzene-1,2-diamine | 3.004 g | FC=1C=C(C(=CC1F)NC1=CC=CC=C1)N | C12H10F2N2
reactant | potassium carbonate | 13.82 mmol, 1.910 g, 1.0 equiv | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 13.82 mmol, 3.956 g, 1.0 equiv | BrCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H16BrNO2
reactant | 2-bromo-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 10.5 mmol, 3.00 g, 0.75 equiv | BrCC(=O)N(C1=CC=C(C=C1)OC)C(C)C | C12H16BrNO2
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | 2-(4,5-Difluoro-2-phenylamino-phenylamino)-N-isopropyl-N-(4-methoxy-phenyl)-acetamide | 5.62 g | FC1=CC(=C(C=C1F)NCC(=O)N(C1=CC=C(C=C1)OC)C(C)C)NC1=CC=CC=C1 | C24H25F2N3O2
